US07977441B2
1-Ethynyl-2-(2-(S)-methylbutyl)naphthalene was prepared in a similar manner to 1-ethynyl-2-hexylnaphthalene, except that bromohexane was replaced by 1-bromo-2-(S)-methylbutane.

reactant | 1-ethynyl-2-hexylnaphthalene | C(#C)C1=C(C=CC2=CC=CC=C12)CCCCCC | C18H20
reactant | bromohexane | BrCCCCCC | C6H13Br
reactant | 1-bromo-2-(S)-methylbutane | BrC[C@H](CC)C | C5H11Br
product | 1-Ethynyl-2-(2-(S)-methylbutyl)naphthalene | C(#C)C1=C(C=CC2=CC=CC=C12)C[C@H](CC)C | C17H18
